US07482341B2
Step B]: 6-(3-Fluoro-benzyloxymethyl)-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide (0.663 g) and 3M aqueous NaOH (4.19 mL) as a brown liquid (0.596 g). MS (ESI): 233.2 (MH+).

reactant | N-[6-(3-fluoro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | 0.663 g | FC=1C=C(COCC2=CC=CC(=N2)NC(C(C)(C)C)=O)C=CC1 | C18H21FN2O2
reactant | NaOH | 3M, 4.19 mL, 0.596 g | [OH-].[Na+]
product | 6-(3-Fluoro-benzyloxymethyl)-pyridin-2-ylamine | FC=1C=C(COCC2=CC=CC(=N2)N)C=CC1 | C13H13FN2O
